US05162360
A solution of 4-dibutylamino-2-butynenitrile in ethanol (10 mL) was added to a stirring solution of benzylhydrazine dihydrochloride (3.0 g, 15.4 mmol) and 3.0 N NaOH (5.00 mL, 15.4 mmol) in ethanol (50 mL). The resulting solution as stirred (2 hours, 25° C.), then concentrated. The residue was taken up in ethyl acetate (250 mL), washed with brine (3×90 mL), then dried (MgSO4) and concentrated in vacuo. The resulting oil was chromatographed on silica (80:20 hexane:ethyl acetate) to yield 0.70 g (14.5%) of 5-amino-3-[(dibutylamino)methyl]-1-(phenylmethyl)-1H-pyrazole as an orange oil. 1H NMR (250 MHz, CDCl3 δ 7.22 (m, 6H), 4.56 (s, 2H), 4.00 (br s, 2H), 2.30 (m, 4H), 1.34 (m, 8H), 0.90 (t, 6H).

reactant | 4-dibutylamino-2-butynenitrile | C(CCC)N(CC#CC#N)CCCC | C12H20N2
reactant | benzylhydrazine dihydrochloride | 15.4 mmol, 3.0 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | NaOH | 15.4 mmol, 3.0 N, 5.00 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-amino-3-[(dibutylamino)methyl]-1-(phenylmethyl)-1H-pyrazole | 0.70 g, 14.5% | NC1=CC(=NN1CC1=CC=CC=C1)CN(CCCC)CCCC | C19H30N4
